US05470856
1,6-Dihydro-5(4H)-pyrimidinone O-(1-methylethyl)oxime monohydrochloride
1,3-Diaminoacetone dihydrochloride monohydrate (2.0 g, 11.2 mmol) was dissolved in refluxing methanol and O-(1-methylethyl)hydroxylamine hydrochloride (2.5 g, 22.4 mmol) was added. After refluxing for 48 hours the solvent was evaporated. The crude product was dissolved in methanol and an excess of trimethylorthoformate was added to the reaction mixture which was heated to reflux. After 24 hours the solvent was removed in Vacuo. Crystallization from methanol/ethyl acetate afforded 1.00 g (47%) light-brown material. Mp. 170.0° C.

reactant | 1,3-Diaminoacetone dihydrochloride monohydrate | 11.2 mmol, 2.0 g | O.Cl.Cl.NCC(=O)CN
reactant | O-(1-methylethyl)hydroxylamine hydrochloride | 22.4 mmol, 2.5 g | Cl.CC(C)ON
reactant | methanol | CO | CH4O
product | 1,6-Dihydro-5(4H)-pyrimidinone O-(1-methylethyl)oxime monohydrochloride | 1.00 g, 47% | Cl.CC(C)ON=C1CN=CNC1 | InChI=1S/C7H13N3O.ClH/c1-6(2)11-10-7-3-8-5-9-4-7;/h5-6H,3-4H2,1-2H3,(H,8,9);1H
